.SUBCKT BSH105 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 92e-12
Cgd1 6 4 541e-12
Cgd2 1 4 27.5e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 3 1 Dbody
Rd 5 1 Rtemp 50e-3
Rg 2 6 90
.MODEL MOST1 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=0.914 Kp=1.21e-5
+                          RS=0 RD=0 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=5e-5 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=1.17e12 DELTA=0.1)
.MODEL MOST2 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=-3.23 Kp=1.21e-5
+                          RS=1000 RD=1000 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=5e-5 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=0 DELTA=0.1)
.MODEL Dbody D(Is=1e-14 N=0.9 Rs=0.044 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4
+                          Bv=20 Ibv=10e-6 Tt=20e-9)
.MODEL Rtemp RES(TC1=3.9e-3 TC2=6.1e-6)
.ENDS
